US08980911B2
An ice-cooled mixture of 4-methyl-5-nitropyridin-2-amine (1 g, 6.5 mmol), triethylamine (1.31 g, 13 mmol) in tetrahydrofuran (20 mL) was treated with cyclopropyl acetyl chloride (0.75 g, 7.1 mmol) drop wise. After complete addition the reaction mixture was stirred at room temperature for 1 hour, cooled to 0° C. and added cyclopropyl acetyl chloride (0.75 g, 7.1 mmol) followed by stirring at room temperature for 1 hour. The solvent was evaporated under vacuum and water (100 mL) was poured into the reaction mixture and extracted with ethyl acetate (2×150 mL). The organic layer was washed with aqueous sodium bicarbonate solution, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue (1.5 g) was taken-up in methanol and water (4:1, 40 mL). Potassium carbonate was added to it and stirred at room temperature for 20 hours. The mixture was concentrated under vacuum. Residue was taken up in water (100 mL) and extracted with ethyl acetate (2×150 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated under vacuum to get the crude compound, which upon purification by silica gel column chromatography using methanol in dichloromethane (1%) as eluent afforded N-(4-methyl-5-nitropyridin-2-yl)cyclopropanecarboxamide (0.6 g, 52%).

reactant | 4-methyl-5-nitropyridin-2-amine | 6.5 mmol, 1 g | CC1=CC(=NC=C1[N+](=O)[O-])N | C6H7N3O2
reactant | triethylamine | 13 mmol, 1.31 g | C(C)N(CC)CC | C6H15N
reactant | cyclopropyl acetyl chloride | 7.1 mmol, 0.75 g | C1(CC1)CC(=O)Cl | C5H7ClO
reactant | cyclopropyl acetyl chloride | 7.1 mmol, 0.75 g | C1(CC1)CC(=O)Cl | C5H7ClO
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-(4-methyl-5-nitropyridin-2-yl)cyclopropanecarboxamide | 0.6 g, 52% | CC1=CC(=NC=C1[N+](=O)[O-])NC(=O)C1CC1 | C10H11N3O3
